Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
shortness of breath
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ obese female with an otherwise 
unremarkable PMHx who presents with 10 days of dyspnea on 
exertion.  

On ___, she flew to ___.  She was careful to
get up out of her seat on more than one occasion.  However, 
right
after landing, she developed shortness of breath.  The whole 
time
she was in ___ she was short of breath with exertion. 
This shortness of breath persisted when she returned on ___.  She also feels like she may have strained her back when
grabbing one of her bags, and c/o R. mid-lower back pain. 

She continues to have shortness of breath with walking,
especially up stairs.  She also has some shortness of breath 
with
talking.  Talking also makes her cough, but other than that she
is not really coughing much. She denies ill contacts and she
denies fevers, chills, sweats or lower extremity swelling.  She
has had some
postnasal drip but no significant upper respiratory symptoms.  

She denies history of DVT and is a non-smoker. Saw PCP today and
was noted to desaturate to 91% with walking.

In the ED:
Initial vital signs were notable for: T 97.0, HR 105, BP 147/59,
RR 18, SpO2 100% RA 

Exam notable for:
-Lungs clear but inspiration elicits a cough response
-Tachycardic

Labs were notable for: no leukocytosis, H/H 10.9/35.1, INR 1.3,
BNP 12, trop negative, normal lytes, normal lactate

Studies performed include:
CTA chest: 1. Multiple acute expansile pulmonary emboli within
the right lower lobe segmental and subsegmental branches.
Decreased enhancement of the right lower lobe lung parenchyma,
compatible with infarction. Moderate nonhemorrhagic right 
pleural
effusion.
2. No evidence of right heart strain.
3. Heterogeneously enlarged thyroid gland.
4. Cholelithiasis.

Patient was given: 500 cc NS, heparin gtt at 5200 units

Consults: None

Vitals on transfer: HR 104, BP 126/75, RR 18, spO2 99% RA 
 
Upon arrival to the floor, she reports feeling some dyspnea at
rest and pain in her R. mid-lower back, which is different from
her baseline.

REVIEW OF SYSTEMS:
Complete ROS obtained and is otherwise negative.
 
Past Medical History:
COLD SORES 
GALACTORRHEA 
HAND ECZEMA 
INFERTILITY 
OBESITY 
PLANTAR FASCIITIS 
ROSACEA 
URINARY INCONTINENCE 
BORDERLINE HYPERTENSION 
? TEMPOROMANDIBULAR JOINT DYSFUNCTION 
HEARING LOSS 
H/O ABNORMAL PAP SMEAR 
 
Social History:
___
Family History:
Father with renal cancer, colonic polyps. 
Mother with T2DM, strokes.
 
Physical Exam:
======================
ADMISSION PHYSICAL EXAM:
======================
VITALS: T 98.1, BP 128/67, HR 67, RR 16, SpO2 94 ra 
GENERAL: Alert and interactive. In no acute distress.
HEENT: NCAT. PERRL, EOMI. Sclera anicteric and without 
injection.
MMM.
NECK: No cervical lymphadenopathy. 
CARDIAC: Regular rhythm, slightly tachycardic rate. Audible S1
and S2. No murmurs/rubs/gallops.
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.
BACK: No spinous process tenderness. +ttp in R. mid-lower back,
lateral to ~T12-L3. 
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants. 
EXTREMITIES: No clubbing, cyanosis, or edema. Pulses DP 2+
bilaterally.
SKIN: Warm. No rash.
NEUROLOGIC: AOx3. No focal neurologic deficits. 

======================
DISCHARGE PHYSICAL EXAM
======================
VITALS: 24 HR Data (last updated ___ @ 558)
Temp: 99.2 (Tm 99.2), BP: 114/59 (99-122/59-79), HR: 93
(93-129), RR: 18, O2 sat: 92% (85-94), O2 delivery: Ra (1 
liter-2
liters)    
GENERAL: Alert and interactive. In no acute distress.
HEENT: NCAT. Sclera anicteric and without injection. 
CARDIAC: Regular rhythm, tachycardic. Audible S1 and S2. No
murmurs/rubs/gallops.
LUNGS: Coughs when taking deep breaths. Decreased BS R base. No 
wheezes, rhonchi or rales. 
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants. 
EXTREMITIES: WWP. No ___ edema.
NEUROLOGIC: AOx3. No focal neurologic deficits.
 
Pertinent Results:
=============
ADMISSION LABS
=============
___ 12:45PM   ___ PTT-25.6 ___
___ 12:45PM   PLT COUNT-284
___ 12:45PM   NEUTS-72.4* LYMPHS-14.9* MONOS-7.3 EOS-4.3 
BASOS-0.6 IM ___ AbsNeut-5.74 AbsLymp-1.18* AbsMono-0.58 
AbsEos-0.34 AbsBaso-0.05
___ 12:45PM   WBC-7.9 RBC-3.92 HGB-10.9* HCT-35.1 MCV-90 
MCH-27.8 MCHC-31.1* RDW-13.6 RDWSD-44.6
___ 12:45PM   HCG-<5
___ 12:45PM   cTropnT-<0.01 proBNP-12
___ 12:45PM   estGFR-Using this
___ 12:45PM   GLUCOSE-114* UREA N-17 CREAT-0.9 SODIUM-143 
POTASSIUM-4.4 CHLORIDE-103 TOTAL CO2-24 ANION GAP-16
___ 12:49PM   LACTATE-0.9
___ 12:49PM   COMMENTS-GREEN TOP

================
PERTINENT STUDIES
================
CTA Chest ___
1. Multiple acute expansile pulmonary emboli within the right 
lower lobe
segmental and subsegmental branches.  Decreased enhancement of 
the right lower lobe lung parenchyma, compatible with 
infarction.  Moderate nonhemorrhagic right pleural effusion.
2. No evidence of right heart strain.
3. Heterogeneously enlarged thyroid gland.
4. Cholelithiasis.

Bilateral Lower Extremity Venous Duplex U/S ___
No evidence of deep venous thrombosis in the right or left lower 
extremity
veins.

TTE ___
The left atrial volume index is normal. The right atrial 
pressure could not be estimated. There is normal left 
ventricular wall thickness with a normal cavity size. There is 
suboptimal image quality to assess regional left ventricular 
function. Overall left ventricular systolic function is normal. 
Quantitative biplane left ventricular ejection fraction is 61 %. 
There is no resting left ventricular outflow tract gradient. 
Normal right ventricular cavity size with normal free wall 
motion. Tricuspid annular plane systolic excursion (TAPSE) is 
normal. The aortic sinus diameter is normal for gender with 
normal ascending aorta diameter for gender. The aortic arch 
diameter is normal. The aortic valve leaflets (?#) appear 
structurally normal. There is no aortic valve stenosis. There is 
no aortic regurgitation. The mitral valve leaflets appear 
structurally normal with no mitral valve prolapse. There is 
trivial mitral regurgitation. The tricuspid valve leaflets 
appear structurally normal. There is physiologic tricuspid 
regurgitation. The pulmonary artery systolic pressure could not 
be estimated. There is no pericardial effusion.

IMPRESSION: Suboptimal image quality. Normal biventricular 
cavity sizes and regional/global systolic function. No valvular 
pathology or pathologic flow identified. Indeterminant PASP.

============
MICROBIOLOGY
============
___ 12:40 pm BLOOD CULTURE

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___:    NO GROWTH. 

=============
DISCHARGE LABS
=============
___ 07:46AM BLOOD WBC-8.8 RBC-3.86* Hgb-10.5* Hct-34.5 
MCV-89 MCH-27.2 MCHC-30.4* RDW-13.7 RDWSD-44.9 Plt ___
___ 07:46AM BLOOD ___ PTT-29.4 ___
___ 07:46AM BLOOD Glucose-106* UreaN-15 Creat-0.7 Na-141 
K-4.3 Cl-98 HCO3-25 AnGap-18
___ 07:46AM BLOOD Calcium-8.9 Phos-3.1 Mg-2.___ female with a history of obesity who presented with 
shortness of breath, DOE, and chest pain following a flight to 
___, found to have multiple RLL segmental and 
subsegmental PEs with associated RLL infarct and pleural 
effusion.
 
# Acute sub-massive pulmonary emboli: 
# Moderate R pleural effusion:
# Likely pulmonary infarct:
# Hypoxia:
Patient presented with dyspnea on exertion and R-sided chest 
pain. CTA Chest revealed multiple acute expansile pulmonary 
emboli within the right lower lobe segmental and subsegmental 
branches, with decreased enhancement of the right lower lobe 
lung parenchyma, compatible with infarction. There was no 
evidence of R heart strain on CTA or TTE, and her LENIs were 
negative for DVT.  Likely provoked in setting of long travel 
with no personal history of DVT/PE and no significant family 
history of coagulation disorders. She was initially treated with 
heparin gtt and then transitioned to apixaban (10mg BID x 7 day 
course [___] followed by 5mg BID for at least a 6 month 
course). Interventional pulmonology was consulted to consider 
tapping the patient's persistent pleural effusion for 
symptomatic relief. The IP team felt that since the effusion was 
small and appeared to be improving there was not need to tap and 
recommended repeat CXR in three weeks and IP follow-up 
(scheduled). She continued to desat to high ___ with ambulation 
and so was discharged on home oxygen. She requires ___ O2 via 
NC while ambulating.  Recommend reevaluation at upcoming PCP 
appointment to determine whether ongoing supplemental oxygen is 
required. She was discharged with a short course of tramadol and 
tylenol.

# Normocytic anemia:
Hgb stable at ___. Baseline unclear (nl in ___. No clear 
evidence of bleeding.

# Elevated INR:
INR uptrending, likely apixaban effect. No evidence of active 
bleeding. Would repeat INR at PCP ___ to ensure stability

# Enlarged thyroid gland:
Incidental finding on CTA chest. Clinically euthyroid. ___ as 
outpatient.

TRANSITIONAL ISSUES:
====================
Discharge INR: 1.8

NEW medications: Apixaban 10mg BID x 7 days (___) 
followed by 5mg BID ongoing

[] Likely provoked DVT in the setting of long plane flight but 
can consider hypercoagulable workup
[] Please continue anticoagulation and decide on course
[] Please monitor ambulatory O2 sat at follow-up PCP appointment 
and adjust oxygen requirement as needed. She is being discharged 
on ___ NC with ambulation. If O2 requirement increasing, 
consider repeat CXR to evaluate pleural effusion and if 
concerned please arrange expedited follow-up with interventional 
pulmonology
[] Patient has follow-up appointment with interventional 
pulmonology (Dr. ___. Please obtain follow-up 
CXR prior to that appointment.
[] INR rising at time of discharge, please check INR at next 
outpatient appointment.
[] Thyroid US to evaluate incidentally found enlarged thyroid 
gland

#code status: full
#contact: ___, husband (___)
 
Medications on Admission:
None
 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H  
2.  Apixaban 10 mg PO BID Duration: 7 Days  
3.  Apixaban 5 mg PO BID 
RX *apixaban [Eliquis] 5 mg 1 tablet(s) by mouth twice a day 
Disp #*60 Tablet Refills:*2 
4.  TraMADol 50 mg PO Q6H:PRN Pain - Moderate 
RX *tramadol 50 mg 1 tablet(s) by mouth Every 12 hours Disp #*7 
Tablet Refills:*0 
5.Home oxygen
___ Dx: Pulmonary embolism, I26
2L Concentrator and portable tanks via NC for ___% room air
Ambulation 85% room air; 92% on 2L

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary: 
Pulmonary embolism
Pleural efusion

Secondary:
Anemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

Why were you admitted?
- You were admitted with a pulmonary embolism- a clot in your 
lungs

What happened while you were in the hospital?
- We did an ultrasound (echo) of your heart which fortunately 
did not show any heart damage from the clot
- We also did an ultrasound of your legs to look for clot-- 
there was none
- We kept you in the hospital for a little longer because your 
oxygen levels were dropping when you were walking
- We also had our pulmonary doctors ___ at the fluid in your 
lungs to determine if the fluid needed to be removed. Since 
there was not much fluid at all, they did not feel it would 
affect your breathing at all. We decided not to drain it.

What should you do when you leave the hospital?
- You are being set up with home oxygen. You need ___ liters 
with walking. You should be able to come off the oxygen within 
___ weeks.
- If you develop worsening shortness of breath or cough, please 
call your doctor.
- You will need to especially take your blood thinner 
medication, apixaban, which we have provided for you. Please 
follow the pharmacy instructions, since the dose decreases in 
one week.

It was a pleasure taking care of you! We wish you all the best.
- Your ___ Team
 
Followup Instructions:
___